US06809199B2
To a stirred solution of 2-(2,4-difluorophenyl)-3-methyl-5-nitropyridine (7.5 g, 30 mmol, 1 eq) in methanol (100 mL) in a 500 mL round bottom flask was added 7 g of Raney Nickel slurry. The flask was evacuated and charged with hydrogen 4 times. The mixture was stirred under H2. After 5 h the reaction flask was purged with nitrogen. The mixture was filtered and the methanol was removed under reduced pressure giving 6.4 g 6-(2,4-difluorophenyl)-5-methylpyridin-3-amine.

reactant | 2-(2,4-difluorophenyl)-3-methyl-5-nitropyridine | 30 mmol, 7.5 g, 1 eq | FC1=C(C=CC(=C1)F)C1=NC=C(C=C1C)[N+](=O)[O-] | C12H8F2N2O2
solvent | methanol | 100 mL | CO | CH4O
catalyst | Raney Nickel | 7 g | [Ni] | Ni
product | 6-(2,4-difluorophenyl)-5-methylpyridin-3-amine | 6.4 g | FC1=C(C=CC(=C1)F)C1=C(C=C(C=N1)N)C | C12H10F2N2
